US07250410B2
3-[(1-ethyl-7,8-dimethoxy-2-oxo-5-phenyl-2,3-dihydro-1H-1,4-benzodiazepin-3-yl)methyl]benzamide, IIcs.
To a solution of 40 mg (0.91 mmol) of 3-[(1-ethyl-7,8-dimethoxy-2-oxo-5-phenyl-2,3-dihydro-1H-1,4-benzodiazepin-3-yl)methyl]benzonitrile (IIcp) in 1 ml of ethanol, add under an inert atmosphere 27 μl (0.27 mmol) of 30% (m/m) H2O2 in water, 36 μl (0.018 mmol) of 0.5 M NaOH in water. Stir under reflux for 12 hours. Evaporate to dryness. Take up in a 25 ml of a water-ice mixture. Filter the solid, wash twice with 20 ml of water and once with 5 ml of ether. One obtains 24 mg of the abovenamed product as a white powder. Yield: 59%. M: 111–113° C. 1H-NMR (CDCl3, 200 MHz): d 1.10 (s, 3H, CH3), 3.50–3.75 (m, 6H, 1H —CH2Ph+1H —NCH2+CH+OCH3), 3.98–4.11 (m, 4H, 1H —CH2Ph+OCH3), 4.38–4.49 (m, 1H —NCH2), 5.91 (m, 1H exchangeable CO—NH2), 6.26 (m, 1H exchangeable CO—NH2), 6.66 (s, 1H Ar), 6.85 (s, 1H Ar), 7.30–7.86 (m, 9H Ar).

reactant | 3-[(1-ethyl-7,8-dimethoxy-2-oxo-5-phenyl-2,3-dihydro-1H-1,4-benzodiazepin-3-yl)methyl]benzonitrile | 0.91 mmol, 40 mg | C(C)N1C(C(N=C(C2=C1C=C(C(=C2)OC)OC)C2=CC=CC=C2)CC=2C=C(C#N)C=CC2)=O | C27H25N3O3
reactant | H2O2 | OO | H2O2
reactant | NaOH | 0.018 mmol, 0.5 M, 36 μl | [OH-].[Na+]
solvent | ethanol | 1 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | 3-[(1-ethyl-7,8-dimethoxy-2-oxo-5-phenyl-2,3-dihydro-1H-1,4-benzodiazepin-3-yl)methyl]benzamide | 24 mg, Yield: 59% | C(C)N1C(C(N=C(C2=C1C=C(C(=C2)OC)OC)C2=CC=CC=C2)CC=2C=C(C(=O)N)C=CC2)=O | C27H27N3O4
